US08466292B2
A suspension of 300 g (1179 mmol) of 2-chloro-5-iodophenol, 184 g (1179 mmol) of 4-methoxybenzyl chloride and 195.5 g (1415 mmol) of anhydrous K2CO3 in 1.2 L of anhydrous DMF is stirred for 5 hours at 70° C. and then cooled to room temperature. The reaction medium is then poured into 3 L of a 2/1 ether/water mixture. The organic phase is washed with 2×1 L of water, dried over Na2SO4 and concentrated under reduced pressure, and the residue obtained is solidified in pentane. 406 g of 2-[(4-methoxybenzyl)oxy]-1-chloro-4-iodobenzene are thus obtained in the form of a beige-colored powder.

reactant | 2-chloro-5-iodophenol | 1179 mmol, 300 g | ClC1=C(C=C(C=C1)I)O | C6H4ClIO
reactant | 4-methoxybenzyl chloride | 1179 mmol, 184 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | K2CO3 | 1415 mmol, 195.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ether water | CCOCC.O
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
solvent | pentane | CCCCC | C5H12
product | 2-[(4-methoxybenzyl)oxy]-1-chloro-4-iodobenzene | 406 g, Yield=92% | COC1=CC=C(COC2=C(C=CC(=C2)I)Cl)C=C1 | C14H12ClIO2
